US06953857B2
[4-({3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-methyl)-piperidin-1-yl]-acetic acid
To 1 g 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-ylmethyl-benzamide hydrochloride and 400 mg NaOH in 50 ml EtOH/H2O 1:1 0.35 g bromo acetic acid were added at RT. After stirring over night the reaction mixture was acidified with half concentrated HCl. After evaporation of the solvent the residue was coevaporated with toluene. The waxy brown solid was subjected to the subsequent reaction without further purification.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-ylmethyl-benzamide hydrochloride | 1 g | Cl.ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCNCC2)C=CC1OC
reactant | NaOH | 400 mg | [OH-].[Na+]
reactant | bromo acetic acid | 0.35 g | BrCC(=O)O | C2H3BrO2
reactant | HCl | Cl | ClH
solvent | EtOH H2O | 50 ml | CCO.O
product | [4-({3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-methyl)-piperidin-1-yl]-acetic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCN(CC2)CC(=O)O)C=CC1OC | C24H28Cl2N2O5
